Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
R.foot pain
 
Major Surgical or Invasive Procedure:
Wound debridement 
 
History of Present Illness:
___ y.o male with h.o diabetes and R.foot ulcer who presents with 
acute on chronic R.foot pain related to his ulcer. Pt reports 
that he feels "weakness" and "can't walk well" due to his 
R.foot. He reports pain is ___ plantar surface and dull. He 
reports swelling of the toes and numbness on the bottom of his 
feet. He denies fever, chills, other joint pain. He denies 
having a PCP or ___ podiatrist. States it has been a long time 
since someone evaluated his foot. He denies taking anything at 
home to try and help. He wears sneakers. 
.
10 pt ROS Reviewed and otherwise negative. He otherwise denies 
headache, dizziness, ST, URI, CP, sob, palpitations, abdominal 
pain, nausea, vomiting, diarrhea, constipation, dysuria, melena, 
brbpr, other paresthesias.
.
In the ED, pt's VSS.  
 
Past Medical History:
diabetes
foot ulcer
 
Social History:
___
Family History:
He denies family history  of diabetes or cancers. 
 
Physical Exam:
On admission:
Gen: well appearing, NAD, appears comfortable
vitals: T 98.1 BP 138/66 HR 95 RR 18 sat 100% on RA ___ 354
HEENT: ncat EOMI anicteric MMM
neck: supple
chest: b/l ae no w/c/r
heart: s1s2 rr ___ systolic murmur loudest in the precordium
abd: +bs, soft, NT, ND, no guarding or rebound
ext: no c/c/e 2+pulses. R.foot with 2inch plantar surface ulcer, 
no drainage, some surrounding erythema and toe swelling
neuro: face symmetric, speech fluent 
psych: calm, cooperative 

At discharge:
Gen: well appearing, NAD, appears comfortable
vitals: AVSS
HEENT: ncat EOMI anicteric MMM
neck: supple
chest: b/l ae no w/c/r
heart: s1s2 rr ___ systolic murmur loudest in the precordium
abd: +bs, soft, NT, ND, no guarding or rebound
ext: no c/c/e 2+pulses. R.foot with 2inch plantar surface ulcer, 
no drainage, some surrounding erythema and toe swelling
neuro: face symmetric, speech fluent 
psych: calm, cooperative 
 
Pertinent Results:
___ 08:03AM   ___ PO2-69* PCO2-47* PH-7.39 TOTAL 
CO2-30 BASE XS-2 INTUBATED-NOT INTUBA COMMENTS-GREEN TOP
___ 07:52AM   GLUCOSE-354* UREA N-17 CREAT-0.9 SODIUM-135 
POTASSIUM-3.9 CHLORIDE-100 TOTAL CO2-26 ANION GAP-13
___ 07:52AM   estGFR-Using this
___ 07:52AM   CRP-1.6
___ 07:52AM   WBC-7.7 RBC-4.60 HGB-13.0* HCT-39.0* MCV-85 
MCH-28.3 MCHC-33.3 RDW-12.8 RDWSD-39.1
___ 07:52AM   NEUTS-62.0 ___ MONOS-12.0 EOS-4.9 
BASOS-0.6 IM ___ AbsNeut-4.79 AbsLymp-1.55 AbsMono-0.93* 
AbsEos-0.38 AbsBaso-0.05
___ 07:52AM   PLT COUNT-226
___ 05:30AM   ___ PO2-45* PCO2-54* PH-7.39 TOTAL 
CO2-34* BASE XS-5
.
Xray:
IMPRESSION:  
No definite radiographic evidence of osteomyelitis.  Previously 
seen soft 
tissue ulcer present on examination dated ___ less 
conspicuous on current examination.   
RECOMMENDATION(S):  There is ongoing clinical concern for 
osteomyelitis, MRI would be more sensitive for evaluation. 

___ 06:35AM BLOOD %HbA1c-10.7* eAG-260*
 
Brief Hospital Course:
___ y.o male with h.o diabetes, chronic R.foot ulcer who 
presented with R.foot pain/ulcer.  

# R.foot diabetic ulcer  
# R.foot pain/neuropathy  
Pt reports chronic ulcer ___ years. He denies any recent changes 
other than pain. He denies having PCP or ___ podiatrist. No 
specific wound care at home. No fever, or leukocytosis. Wound 
did not look infected. Crp WNL and no xray findings suggestive 
of osteomyelitis. Podiatry was consulted who performed a bedside 
debridement and also concurred that the wound did not look 
infected. They recommended dry sterile gauze and a special ___ 
___ forefoot shoe. Shoe obtained, but pt non-compliant. 
Pt will need to follow up with podiatry after discharge.   
  
# Uncontrolled diabetes with complication (neuropathy)-pt 
reports that he was advised never to take any insulin and only 
to take metformin. Discussed fully with pt regarding 
risks/benefits of insulin and proper glycemic control. Discussed 
risks of death, cardiac, neurologic, nephrologic, neurologic, 
ophthalmologic, wound care, hydration, etc without proper care 
including risks of ICU transfer for coma/acidosis. Pt states 
that he will think about this but that he has been advised 
against this. He also states that he has all blood sugar testing 
supplies including glucometer at home. SW was consulted as well 
as psychiatry. Elected to start metformin. Pt will allow 
metformin if referred to as "Glucophage" but did not allow 
insulin. His FSBGs have been high 100s to low 200s the last 
couple of days, with occasional values in the very low 300s. He 
is complaint with occasional blood glucose checks.
 
# Psychosis +/- mania -pt AAOx3, answering questions 
appropriately but has some seeming delusions regarding 
insulin/diabetes. Attempted capacity evaluation. Pt able to 
states that possible effects to his eyes with poor blood sugar 
control and that there are other things that he "does not need 
to worry about right now" but would not state them. Pt appeared 
discheveled, showering and then returning to dirty clothes, 
performing intricate math/economic problems on multiple sheets 
of paper. He was also paranoid and was particular about certain 
aspects of his care. Psychiatry was consulted and he was placed 
on a ___, and recommended inpatient psychiatric 
hospitalization. See psychiatry consult notes for further 
details. He was started and continued on perphenazine.

>30 minutes spent coordinating his discharge from the hospital

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. MetFORMIN (Glucophage) 1000 mg PO BID 
2. Perphenazine 4 mg PO TID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
DM foot ulcer
Diabetes with hyperglycemia with other complications NOS
Mania vs psychosis
 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent. ___ boot for 
___.
 
Discharge Instructions:
You were admitted for evaluation of right foot pain. You were 
evaluated by the podiatry team who performed a debridement and 
did not think that your wound was infected. They recommended 
wound care and a special shoe to off load the wound. You will 
need to see the podiatrists in clinic. Please see the 
appointment below. In addition, you were noted to be 
experiencing mania or psychosis and were recommended by the 
psychiatry team to have an inpatient psychiatric 
hospitalization. 
 
Followup Instructions:
___